US07863271B2
Lithium aluminum hydride(1 M solution in THF, 40 mL, 40.0 mmol) was added drop wise to solution of (S)-2-tert-butylpiperazin-3,6-dione (1.5 g, 8.82 mmol) in THF (50 mL) at 0° C. The reaction mixture was stirred at room temperature for 7 days and at 65° C. for 17 h, then cooled to 0° C. and quenched sequentially with H2O (1.7 mL), 10% NaOH (2.2 mL) and H2O (3.4 mL). Ether (100 mL) was added to the reaction mixture, and stirring was continued for 1.5 h. The solid was filtered, the filtrate was concentrated and purified by column chromatography (silica gel, 33% EtOAc in hexanes) to afford (S)-2-tert-butylpiperazine (0.64 g, 52%) as a clear oil. 1H NMR and MS consistent.

reactant | Lithium aluminum hydride | 40.0 mmol, 1 M, 40 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-tert-butylpiperazin-3,6-dione | 8.82 mmol, 1.5 g | C(C)(C)(C)[C@@H]1NC(CNC1=O)=O | C8H14N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-2-tert-butylpiperazine | 0.64 g, 52% | C(C)(C)(C)[C@@H]1NCCNC1 | C8H18N2
